US04448966
Oxalyl chloride (1.56 g, 1.1 ml, 12.32 mmol) is added to a stirring solution of 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid (2.00 g, 6.16 mmol), dimethylformamide (DMF; 4 drops) and ether (50 ml). The mixture is stirred at RT for 3 hours. Insoluble material is filtered off and solvent is removed in vacuo to give 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid chloride.

reactant | Oxalyl chloride | 12.32 mmol, 1.1 ml, 1.56 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid | 6.16 mmol, 2.00 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)O)C)C=C2)C=C1)(F)F | C16H13F3O4
catalyst | dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid chloride | FC(C1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1)(F)F | C16H12ClF3O3
